US07276603B2
A mixture of 6-methoxy-benzofuran-3 (2H)-one (1.64 g, 10 mmol) and (carboxymethylene)triphenylphosphorane (5.22 g, 15 mmol) was refluxed in toluene (100 ml) for 48 hrs. Afterwards, reaction mixture was concentrated and loaded over a silica-gel column. The column was eluted with hexane (500 ml) and then with 25% ethyl acetate. The product, ethyl(6-methoxy-1-benzofuran-3-yl)acetate, was obtained as a white oil. Yield: 1.8 g (76%); (M+H): 235.

reactant | 6-methoxy-benzofuran-3 (2H)-one | 10 mmol, 1.64 g | COC1=CC2=C(C(CO2)=O)C=C1 | C9H8O3
reactant | (carboxymethylene)triphenylphosphorane | 15 mmol, 5.22 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl(6-methoxy-1-benzofuran-3-yl)acetate | C(C)OC(CC1=COC2=C1C=CC(=C2)OC)=O | C13H14O4
